US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-methylbenzamide (Compound No. 55)
Using 5-methylsalicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-methylsalicylic acid | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-methylbenzamide | Yield: 54.9% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C)O)=O)(F)F | C16H11F6NO2
